US06110934
5-Amino-2-methylisoquinolinium Iodide
To a solution of 5-aminoisoquinoline (14.4 g, 100 mmol) in acetone (300 ml) was added iodomethane (14.4 ml). The solution was briefly stirred and then allowed to sthand for 2h. The yellow precipithate was then filtered, washed with acetone and dried to afford the title compound as a yellow solid (18.8 g).

reactant | 5-aminoisoquinoline | 100 mmol, 14.4 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | iodomethane | 14.4 ml | IC | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 5-Amino-2-methylisoquinolinium Iodide | 18.8 g | [I-].NC1=C2C=C[N+](=CC2=CC=C1)C | InChI=1S/C10H11N2.HI/c1-12-6-5-9-8(7-12)3-2-4-10(9)11;/h2-7H,11H2,1H3;1H/q+1;/p-1
